US08445480B2
To a mixture of 830 mg of potassium carbonate in 50 ml of methanol was added tert-butyl(piperidin-3-ylmethyl)carbamate (643 mg), followed by 1-(bromomethyl)-4-(trifluoromethyl)benzene (717 mg). The mixture was heated to 70° C. and stirred for 0.5 h. The sample was filtered through a small plug of silica gel and concentrated in vacuo to provide tert-butyl({1-[4-(trifluoromethyl)benzyl]piperidin-3-yl}methyl)carbamate (640 mg). To a solution of this protected amine in 10 ml of dichloromethane was added trifluoroacetic acid (5 ml). The mixture was stirred at 70° C. for 1.5 h, and then concentrated in vacuo. The residue was diluted with 30 ml of ethyl acetate and basified by slow and cautious addition of 30 ml of a saturated aqueous solution of sodium bicarbonate. The aqueous layer was separated and extracted once with 30 ml of ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to provide the title compound (418 mg, 89%). Mass spectrum (ESI) 273.2 (M+1).

reactant | potassium carbonate | 830 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl(piperidin-3-ylmethyl)carbamate | 643 mg | C(C)(C)(C)OC(NCC1CNCCC1)=O | C11H22N2O2
reactant | 1-(bromomethyl)-4-(trifluoromethyl)benzene | 717 mg | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
solvent | methanol | 50 ml | CO | CH4O
product | tert-butyl({1-[4-(trifluoromethyl)benzyl]piperidin-3-yl}methyl)carbamate | 640 mg | C(C)(C)(C)OC(NCC1CN(CCC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H27F3N2O2
